US07504508B2
(±)-Cis-2-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yloxy]-2-methyl-propionic acid was prepared from (±)-cis-2-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yloxy]-2-methyl-propionic acid ethyl ester. The saponification conditions detailed in the procedure for the synthesis of (±)-cis-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yloxy]-acetic acid were used.

reactant | (±)-cis-2-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yloxy]-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C1=CC=C(C=C1)F)=O)C)N(C(CC)=O)C1=CC=C(C=C1)Cl)=O | C32H34ClFN2O5
reactant | (±)-cis-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yloxy]-acetic acid | ClC1=CC=C(C=C1)N([C@@H]1C[C@@H](N(C2=CC=C(C=C12)OCC(=O)O)C(C1=CC=C(C=C1)F)=O)C)C(CC)=O | C28H26ClFN2O5
product | (±)-Cis-2-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yloxy]-2-methyl-propionic acid | ClC1=CC=C(C=C1)N([C@@H]1C[C@@H](N(C2=CC=C(C=C12)OC(C(=O)O)(C)C)C(C1=CC=C(C=C1)F)=O)C)C(CC)=O | C30H30ClFN2O5
